US07521465B2
The compound, 2-tert-butoxycarbonylamino-3-{4-[4-(2,4-dioxothiazolidin-5-ylmethyl)-phenoxy]-phenyl}-propionic acid (4.2 g, 8.63 mmol) was dissolved in CH2Cl2 (30 mL) and stirred at room temperature under an atmosphere of argon. Triethylamine (1.44 mL, 0.014 mmol) and benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate (BOP reagent, 4.19 g, 9.5 mmol) were added and the reaction mixture was stirred for 15 min. Dimethylamine (2.0 M solution in THF, 5.6 mL, 11.2 mmol) was added and the resulting solution was stirred at room temperature for about 1 h. The solvent was removed under reduced pressure and the resulting oil was taken up in EtOAc (100 mL). The organic layer was extracted with 0.5 N NaOH (1×50 mL), water (1×100 mL) and brine (1×100 mL). Silica gel chromatography of the crude product with CHCl3-MeOH (19:1) yielded pure amide, (1-dimethylcarbamoyl-2-{4-[4-(2,4-dioxothiazolidin-5-ylmethyl)-phenoxy]-phenyl}-ethyl)-carbamic acid tert-butyl ester (0.61 g, 13.8%). 1H NMR (400 MHz, CDCl3): 7.17 (overlapped d, J=8.4 Hz, 2H), 7.16 (overlapped d, J=8.4 Hz, 2H), 6.92 (overlapped d, J=8.4 Hz, 2H), 6.90 (overlapped d, J=8.4 Hz, 2H), 5.51 (d, J=8.4 Hz, 1H), 4.81 (m, 1H), 3.02-3.13 (m, 2H), 2.83-2.95 (m, 5H), 2.76 (s, 3H), 1.46 (s, 9H).

reactant | 2-tert-butoxycarbonylamino-3-{4-[4-(2,4-dioxothiazolidin-5-ylmethyl)-phenoxy]-phenyl}-propionic acid | 8.63 mmol, 4.2 g | C(C)(C)(C)OC(=O)NC(C(=O)O)CC1=CC=C(C=C1)OC1=CC=C(C=C1)CC1C(NC(S1)=O)=O | C24H26N2O7S
reactant | benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate | 9.5 mmol, 4.19 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | Dimethylamine | 11.2 mmol, 2.0 M, 5.6 mL | CNC | C2H7N
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | Triethylamine | 0.014 mmol, 1.44 mL | C(C)N(CC)CC | C6H15N
product | (1-dimethylcarbamoyl-2-{4-[4-(2,4-dioxothiazolidin-5-ylmethyl)-phenoxy]-phenyl}-ethyl)-carbamic acid tert-butyl ester | 0.61 g, 13.8% | C(C)(C)(C)OC(NC(CC1=CC=C(C=C1)OC1=CC=C(C=C1)CC1C(NC(S1)=O)=O)C(N(C)C)=O)=O | C26H31N3O6S
